US07572811B2
To a mixture of 4-phenyl-3-methyl-phenol (1 eq), 4-(4-hydroxymethyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (1 eq) and PPh3 (1.5 eq) in dry THF (3 mL) is added 1,1′-(azodicarbonyl)-dipipperidine (1.5 eq) in THF (1 mL). The mixture is stirred at room temperature for 12 hours. After concentration, the residue is purified by silica gel chromatography (10% EtOAc in hexanes) to give 4-[4-(4-phenyl-3-methyl-phenoxymethyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-phenyl-3-methyl-phenol | 1 eq | C1(=CC=CC=C1)C1=C(C=C(C=C1)O)C | C13H12O
reactant | 4-(4-hydroxymethyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 1 eq | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)CO | C17H25NO3
reactant | PPh3 | 1.5 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-[4-(4-phenyl-3-methyl-phenoxymethyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)COC1=CC(=C(C=C1)C1=CC=CC=C1)C | C30H35NO3
